US06337331B1
3-(2-Fluorophenyl)-6-phenyl-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one (10 mg, 0.033 mmol), triphenylphosphine (21 mg, 0.08 mmol) and (2-methyl-2H-1,2,4-triazol-3-yl)methanol (11 mg, 0.087 mmol) were suspended at room temperature in dry tetrahydrofuran (0.5 ml). Diethyl azodicarboxylate (15 μl, 0.095 mmol) was added at which point a clear yellow solution resulted. The reaction was stirred at room temperature for 64 hours before purification by preparative thin layer chromatography to afford 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-phenyl-1,2,3-triazolo[1,5-α]pyrimidine (5 mg, 39%) as a white solid. δH (400 MHz, CDCl3) 3.79 (3H, s, NMe, 5.69 (2H, s, OCH2), 7.24 (1H, td, J=9.2 and 1.2 Hz, ArH), 7.31 (1H, td, J=8.4 and 1.3 Hz, ArH), 7.39-7.43 (1H, m, ArH), 7.48-7.51 (3H, m, ArH), 7.54-7.58 (2H, m, ArH), 7.86 (1H, s, CH-triazole), 8.00 (1H, td, J=8.3 and 2.0 Hz, ArH), 8.80 (1H, s, PhC═CH);m/z (ES+) 402 (M+H+).

reactant | 3-(2-Fluorophenyl)-6-phenyl-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one | 0.033 mmol, 10 mg | FC1=C(C=CC=C1)C=1N=NN2C1NC(C(=C2)C2=CC=CC=C2)=O | C17H11FN4O
reactant | triphenylphosphine | 0.08 mmol, 21 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 0.087 mmol, 11 mg | CN1N=CN=C1CO | C4H7N3O
reactant | Diethyl azodicarboxylate | 0.095 mmol, 15 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-phenyl-1,2,3-triazolo[1,5-α]pyrimidine | 5 mg, 39% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C(=C2)C2=CC=CC=C2)OCC=2N(N=CN2)C | C21H16FN7O
